US04963564
1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[[6-[3-[3-(phenylmethoxy)-2-pyridinyl]propoxy]hexyl](phenylmethyl)amino]ethanone
A solution of 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone (460 mg), N-[6-[3-[3-(phenylmethoxy)-2-pyridinyl]propoxy]hexyl]benzenemethanamine (800 mg) and DEA (485 mg) in THF (15 ml) was left at room temperature overnight. Water (30 ml) and ether (30 ml) were added, the phases were separated and the organic layer was re-extracted with ether (50 ml). The combined extracts were washed with water and brine, dried and concentrated to an oil which was purified by FCC eluting with ethyl acetate/triethylamine (99:1) followed by ethyl acetate/methanol/triethylamine (90:10:1) to give the title compound as an orange oil (620 mg), t.l.c. (ethyl acetate/methanol/triethylamine 80:20:1) Rf 0.66.

reactant | 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone | 460 mg | BrCC(=O)C1=CC(=C(C=C1)O)CO | C9H9BrO3
reactant | N-[6-[3-[3-(phenylmethoxy)-2-pyridinyl]propoxy]hexyl]benzenemethanamine | 800 mg | C1(=CC=CC=C1)COC=1C(=NC=CC1)CCCOCCCCCCNCC1=CC=CC=C1 | C28H36N2O2
reactant | Water | 30 ml | O | H2O
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[[6-[3-[3-(phenylmethoxy)-2-pyridinyl]propoxy]hexyl](phenylmethyl)amino]ethanone | 620 mg | OC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)CCCCCCOCCCC1=NC=CC=C1OCC1=CC=CC=C1)=O)CO | C37H44N2O5
